US06716851B2
4-(3,4-Methylenedioxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3,4-methylenedioxyaniline (53 mg, 0.386 mmol) similar to Example 58 and isolated as a dark brown solid (47 mg, 68%). 1H NMR (CDCl3): 8.77 (dd, J=1.5, 4.5 Hz, 2H), 8.26 (dd, J=1.5, 4.5 Hz, 2H), 7.06 (s, 1H), 6.93 (s, 1H), 6.89 (d, J=8.1 Hz, 1H), 6.81 (dd, J=2.1, 8.1 Hz, 1H), 6.81 (s, 1H), 6.06 (s, 2H).

reactant | 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 3,4-methylenedioxyaniline | 0.386 mmol, 53 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
product | 4-(3,4-Methylenedioxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | C1OC=2C=C(NC3=NC(=NC(=C3)C(F)(F)F)C3=CC=NC=C3)C=CC2O1 | C17H11F3N4O2
